US08563575B2
The mixture of N-methylbenzylamine (6.085 mL), TEA (13.19 μL) and 3-chloro-2-nitropyridine (5 g) was stirred at 60° C. under N2 overnight. The reaction mixture was concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-30% EtOAc in hexane) to give N-benzyl-N-methyl-2-nitropyridin-3-amine (2.6 g) as dark yellow oil.

reactant | N-methylbenzylamine | 6.085 mL | CNCC1=CC=CC=C1 | C8H11N
reactant | 3-chloro-2-nitropyridine | 5 g | ClC=1C(=NC=CC1)[N+](=O)[O-] | C5H3ClN2O2
product | N-benzyl-N-methyl-2-nitropyridin-3-amine | 2.6 g | C(C1=CC=CC=C1)N(C=1C(=NC=CC1)[N+](=O)[O-])C | C13H13N3O2
